US05047380
To a solution of polysiloxane containing a homogeneous dispersion of palladium particles (0.13 g) prepared as described above in THF and water (0.05 mmol Pd), 5-decyne (0.138 g, 0.18 mL, 1.0 mmol) in a solution of THF (5mL) and water (1 mL) was added. Hydrogen was bubbled through the solution for 30 seconds and the reaction was then placed under a hydrogen atmosphere (balloon). The reaction was stirred at room temperature for 4.5 h. Capillary gas chromatograph analysis showed complete consumption of the alkyne and a 94% yield of Z-5-decene using dodecane as an internal standard. The product was too volatile for an accurate isolated yield. However, a portion was isolated and analyzed spectroscopically. IR (neat) 2925.5, 2850.0 1460.1 cm -1. 1H NMR (300MHz, CDCl3)δ5.33 (br t, J=4.5 Hz, 2H), 2.01 (br q, J=5.6 Hz, 4H), 1.3-1.2 (m, 8H), 0.86 (t, J= 6.8 Hz, 6H) [>12:1 Z/E stereochemistry]. 13C NMR (20 MHz, CDCl3)δ129.87, 30.25, 26.93, 22.25, 13.98.

reactant | polysiloxane | [SiH2](O[*:2])[*:1]
reactant | water | 0.05 mmol | O | H2O
reactant | 5-decyne | 1.0 mmol, 0.18 mL, 0.138 g | CCCCC#CCCCC | C10H18
reactant | water | 1 mL | O | H2O
solvent | THF | C1CCOC1 | C4H8O
catalyst | palladium | [Pd] | Pd
solvent | THF | 5mL | C1CCOC1 | C4H8O
product | Z-5-decene | 94% yield | CCCC\C=C/CCCC | C10H20
